US09353107B2
Step-ii: N-(3-(3-iodo-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)methanesulfonamide
Using similar reaction conditions as described in step i of intermediate 1, N-(3-(1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)methanesulfonamide (800 mg, 3 mmol) was iodinated with N-iodo succinimide (764 mg, 3 mmol) in acetone (5 ml) to afford 600 mg (50% yield) of the pure product. LCMS: m/z=413.4 (M+1).

reactant | N-(3-(1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)methanesulfonamide | 3 mmol, 800 mg | N1C=CC=2C1=NC=C(C2)C=2C=C(C=CC2)NS(=O)(=O)C | C14H13N3O2S
reactant | N-iodo succinimide | 3 mmol, 764 mg | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | N-(3-(3-iodo-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)methanesulfonamide | 600 mg, 50% yield | IC1=CNC2=NC=C(C=C21)C=2C=C(C=CC2)NS(=O)(=O)C | C14H12IN3O2S
